US04487954
Ten % by weight (20 g) of Raney nickel was added to 4-(trans-4'-pentylcyclohexyl)phenol (200 g), and ethanol (1.8 l) was added to dissolve the phenol, followed by absorbing 3 mols of hydrogen based on one mol of the raw material phenol, into the solution at 100° C. under a hydrogen pressure of 20 Kg/cm2G. After completion of the hydrogenation, the catalyst was filtered off and ethanol was vaporized to concentrate the solution so as to give a volume of about 0.3 l, followed by adding fresh ethanol, recrystallization and filtration to obtain trans-4-(trans-4'-pentylcyclohexyl)cyclohexanol (77 g) (yield: 37.6%).

reactant | 4-(trans-4'-pentylcyclohexyl)phenol | 200 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C17H26O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrogen | 3 mols | [H][H] | H2
catalyst | Raney nickel | 20 g | [Ni] | Ni
solvent | ethanol | 1.8 l | C(C)O | C2H6O
product | trans-4-(trans-4'-pentylcyclohexyl)cyclohexanol | 77 g, yield: 37.6% | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)O | C17H32O
